US09382234B2
A 20 mL vial was charged with 3-(((trans)-4-(benzylcarbamoyl)cyclohexyl)oxy) -5-chloro-2-methylbenzoic acid (100 mg, 0.249 mmol), 3-(aminomethyl)-2,6-dimethylpyridin-4(1H)-one hydrochloride (56.3 mg, 0.299 mmol), EDC (71.6 mg, 0.373 mmol), HOAt (57.5 mg, 0.373 mmol), N,N-dimethylformamide (3 mL), and N-methylmorpholine (0.274 mL, 2.488 mmol). The reaction was stirred at room temperature for 16 h, at which time it was added to a stirred solution of saturated NaHCO3 (25 mL) and water (10 mL). The precipitate that formed was stirred at room temperature 1 h, then collected via vacuum filtration. The filter cake was dried under high vacuum overnight and diluted with DMSO (1 mL), one drop of 6 N HCl, and 1.25 N HCl in MeOH (2 mL). Most of the sample dissolved after sonication, however additional DMSO (0.5 mL) was added to achieve complete dissolution. The resulting solution was purified by reverse phase HPLC (Column: Phenomenex-NX axia, 30×100, 5μ, C18. Eluent: 25-45% acetonitrile in/0.1% TFA in water) to give 3-(((trans)-4-(benzylcarbamoyl)cyclohexyl)oxy)-5-chloro-N-((2,6-dimethyl-4-oxo-1,4-dihydropyridin -3-yl)methyl)-2-methylbenzamide (77 mg, 0.144 mmol, 57.7% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 13.91 (br. s., 1H), 8.68 (t, J=5.05 Hz, 1H), 8.33 (t, J=5.94 Hz, 1H), 7.28-7.37 (m, 2H), 7.16-7.27 (m, 4H), 6.97 (s, 1H), 6.84 (d, J=2.02 Hz, 1H), 4.38 (d, J=4.80 Hz, 3H), 4.26 (d, J=6.06 Hz, 2H), 2.68 (s, 3H), 2.53-2.55 (m, 3H), 2.23 (tt, J=3.73, 11.56 Hz, 1H), 2.08 (dd, J=3.03, 12.38 Hz, 2H), 2.03 (s, 3H), 1.83 (d, J=11.12 Hz, 2H), 1.50-1.68 (m, 2H), 1.26-1.43 (m, 2H). MS(ES) [M+H]+ 536.3.

reactant | 3-(((trans)-4-(benzylcarbamoyl)cyclohexyl)oxy) -5-chloro-2-methylbenzoic acid | 0.249 mmol, 100 mg | C(C1=CC=CC=C1)NC(=O)[C@@H]1CC[C@H](CC1)OC=1C(=C(C(=O)O)C=C(C1)Cl)C | C22H24ClNO4
reactant | 3-(aminomethyl)-2,6-dimethylpyridin-4(1H)-one hydrochloride | 0.299 mmol, 56.3 mg | Cl.NCC1=C(NC(=CC1=O)C)C
reactant | EDC | 0.373 mmol, 71.6 mg
reactant | HOAt | 0.373 mmol, 57.5 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | N-methylmorpholine | 2.488 mmol, 0.274 mL | CN1CCOCC1 | C5H11NO
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | water | 10 mL | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 3-(((trans)-4-(benzylcarbamoyl)cyclohexyl)oxy)-5-chloro-N-((2,6-dimethyl-4-oxo-1,4-dihydropyridin -3-yl)methyl)-2-methylbenzamide | 0.144 mmol, 77 mg, 57.7% yield | C(C1=CC=CC=C1)NC(=O)[C@@H]1CC[C@H](CC1)OC=1C(=C(C(=O)NCC2=C(NC(=CC2=O)C)C)C=C(C1)Cl)C | C30H34ClN3O4
